US08871753B2
Step B. 3-Bromo-N-(tert-butyl)-5-nitrobenzenesulfonamide
A solution of 3-bromo-5-nitrobenzenesulfonic acid (1.86 g, 6.59 mmol) in toluene (37 mL) and phosphorus pentachloride (2.75 g, 13.2 mmol) were heated at 100° C. overnight. The reaction mixture was cooled to 0° C. and treated with tert-butylamine (1.03 mL, 9.89 mmol) and N,N-diisopropylethylamine (5.74 mL, 33.0 mmol). After stirring at 25° C. for 30 min, the reaction mixture was diluted with 1 N HCl and extracted with ethyl acetate three times. The combined organic layers were dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash column chromatography to yield the desired product (2.2 g, 98%). 1H NMR (400 MHz, (400 MHz, DMSO-d6): δ 8.62 (m, 1H), 8.56 (m, 1H), 8.37 (m, 1H), 8.03 (s, 1H), 1.32 (s, 9H).

reactant | 3-bromo-5-nitrobenzenesulfonic acid | 6.59 mmol, 1.86 g | BrC=1C=C(C=C(C1)[N+](=O)[O-])S(=O)(=O)O | C6H4BrNO5S
reactant | phosphorus pentachloride | 13.2 mmol, 2.75 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | tert-butylamine | 9.89 mmol, 1.03 mL | C(C)(C)(C)N | C4H11N
reactant | N,N-diisopropylethylamine | 33.0 mmol, 5.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 37 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 1 N | Cl | ClH
product | 3-Bromo-N-(tert-butyl)-5-nitrobenzenesulfonamide | 2.2 g, 98% | BrC=1C=C(C=C(C1)[N+](=O)[O-])S(=O)(=O)NC(C)(C)C | C10H13BrN2O4S
